US08383821B2
(3-Amino-5-(trifluoromethyl)phenyl)methanol.
(3-Nitro-5-(trifluoromethyl)phenyl)methanol (2.6 g, 11.6 mmol) in methanol (30 mL) was flushed with nitrogen, and treated with palladium (10% on charcoal, 260 mg). The flask was flushed with hydrogen and allowed to stir under an atmosphere of hydrogen overnight. The reaction was flushed with nitrogen, filtered through celite, and concentrated. Column chromatography on silica gel (50% ethyl acetate/hexanes) afforded 1.9 g (85%). 1H-NMR (CDCl3, 500 MHz) δ 6.95 (s, 1H), 6.80 (s, 1H), 6.79 (s, 1H), 4.61 (s, 2H). Mass spec.: 192.15 (MH)+.

reactant | (3-Nitro-5-(trifluoromethyl)phenyl)methanol | 11.6 mmol, 2.6 g | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)CO | C8H6F3NO3
solvent | methanol | 30 mL | CO | CH4O
catalyst | palladium | 260 mg | [Pd] | Pd
product | (3-Amino-5-(trifluoromethyl)phenyl)methanol | NC=1C=C(C=C(C1)C(F)(F)F)CO | C8H8F3NO
